US07241785B2
A mixture of ethyl 3-[1-benzyl-3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1H-pyrazol-4-yl]propionate (746 mg), 1N aqueous sodium hydroxide solution (3 ml), tetrahydrofuran (6 ml) and ethanol (6 ml) was stirred at room temperature. 1N Hydrochloric acid (3 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained colorless crystals were collected by filtration to give 3-[1-benzyl-3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1H-pyrazol-4-yl]propionic acid (639 mg, yield 90%), which was then recrystallized from acetone-hexane. melting point: 130–131° C.

reactant | ethyl 3-[1-benzyl-3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1H-pyrazol-4-yl]propionate | 746 mg | C(C1=CC=CC=C1)N1N=C(C(=C1)CCC(=O)OCC)OCC=1C=NC(=CC1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C32H32N4O5
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 3-[1-benzyl-3-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethoxy]-1H-pyrazol-4-yl]propionic acid | 639 mg, yield 90% | C(C1=CC=CC=C1)N1N=C(C(=C1)CCC(=O)O)OCC=1C=NC(=CC1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C30H28N4O5
